US08207164B2
b) 2-[2-(5-Bromo-2-fluoro-phenyl)-3,3-difluoro-2-(2-nitro-benzenesulfonylamino)-propoxy]-2-methyl-propionic acid tert-butyl ester
To a solution of tert-butyl α-hydroxyisobutyrate (533 mg, 3.32 mmol) in 4.5 mL DMF and 0.75 mL THF was added portion wise (133 mg, 3.32 mmol) sodium hydride at room temperature. After the reaction mixture had been stirring for 15 minutes, a solution of 2-(5-bromo-2-fluoro-phenyl)-2-difluoromethyl-1-(2-nitro-benzenesulfonyl)-aziridine (1 g, 2.22 mmol) was added. The reaction mixture was stirred at rt for 150 minutes and quenched with aqueous NH4Cl solution. TBME was added, the layers were separated, washed with brine and TBME. The combined organic layers were dried over MgSO4.H2O and evaporated. The crude product was purified on a silica gel column by eluting with hexane/EtOAc 6/1->5/1 to give 1.10 g of the title compound as a pale yellow resin.

reactant | tert-butyl α-hydroxyisobutyrate | 3.32 mmol, 533 mg | OC(C(=O)OC(C)(C)C)(C)C | C8H16O3
reactant | sodium hydride | 3.32 mmol, 133 mg | [H-].[Na+]
reactant | 2-(5-bromo-2-fluoro-phenyl)-2-difluoromethyl-1-(2-nitro-benzenesulfonyl)-aziridine | 2.22 mmol, 1 g | BrC=1C=CC(=C(C1)C1(N(C1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C(F)F)F | C15H10BrF3N2O4S
solvent | DMF | 4.5 mL | CN(C)C=O | C3H7NO
solvent | THF | 0.75 mL | C1CCOC1 | C4H8O
product | 2-[2-(5-Bromo-2-fluoro-phenyl)-3,3-difluoro-2-(2-nitro-benzenesulfonylamino)-propoxy]-2-methyl-propionic acid tert-butyl ester | 1.10 g | C(C)(C)(C)OC(C(C)(C)OCC(C(F)F)(NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C1=C(C=CC(=C1)Br)F)=O | C23H26BrF3N2O7S
